US03991071
A solution of 25.4 g. 2-chloro-N-propylaniline and 15.15 g. dry triethylamine in 200 ml. dry ether was added to a solution of 13 ml. thiophosgene in 200 ml. of the same solvent at -20° C. The reaction mixture was allowed to warm to room temperature and then filtered, the filtered solid being washed with ether. The ethereal extract was added to the ethereal liquor and after drying over sodium sulphate, was evaporated to give a dark oil. On standing further solid precipitated, which was then separated from the oil. The oily filtrate was distilled to give the product N-2-chlorophenyl-N-propyl(thiocarbamoyl) chloride, b.p. 119°-120° C./0.4 mm. Hg.

reactant | 2-chloro-N-propylaniline | ClC1=C(NCCC)C=CC=C1 | C9H12ClN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | ether | CCOCC | C4H10O
product | N-2-chlorophenyl-N-propyl(thiocarbamoyl) chloride | ClC1=C(C=CC=C1)N(C(=S)Cl)CCC | C10H11Cl2NS
